US04683236
Preparation of 1-Isopropyl-6-ethyl-8β-cyclohexyloxycarbonylergoline
Two grams of 1-isopropyl-8β-cyclohexyloxycarbonylergoline maleate were converted to the free base by partitioning between 100 ml of (CH2Cl)2 and 100 ml. of saturated aqueous sodium bicarbonate. The free base passed into the organic layer. The organic layer was separated and the solvent evaporated therefrom. The resulting residue was dissolved in 15 ml of DMF, and 0.67 g of potassium carbonate and 0.75 g of ethyl iodide added to the solution. This reaction mixture was stirred at ambient temperature for about 3 days at which time HPLC indicated that starting material was no longer present. The reaction mixture was partitioned between 50 ml ethyl acetate and 50 ml of water. The organic layer was separated and the separated layer twice extracted with 50 ml portions of water. The organic layer was dried and the solvent removed by evaporation. The resulting residue (weight=1.67 g) comprising cyclohexyl 1-isopropyl-6-ethyl-8β-cyclohexyloxycarbonylergoline formed in the above reaction, was converted to the corresponding hydrochloride salt in ethyl acetate solution with gaseous HCl. Two crops of the crystalline salt were recovered by filtration; yield=1.42 g; purity by HPLC>99.2%. The crystalline fraction was slurried in a THF/ether solvent mixture and the slurry filtered. 1-Isopropyl-6-ethyl-8β-cyclohexyloxycarbonylergoline hydrochloride thus prepared melted above 220° C.; yield=1.33 g; molecular ion at 408.

reactant | 1-isopropyl-8β-cyclohexyloxycarbonylergoline maleate | Two grams | C(\C=C/C(=O)O)(=O)O.C(C)(C)N1C=C2C[C@H]3NC[C@@H](C[C@@H]3C=3C=CC=C1C32)C(=O)OC3CCCCC3
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Isopropyl-6-ethyl-8β-cyclohexyloxycarbonylergoline | C(C)(C)N1C=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C1C32)C(=O)OC3CCCCC3)CC | C26H36N2O2
